US08748440B2
In a similar manner as described above in Example 7, 3-(4-dimethylamino-phenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one, as prepared above in Paragraph L, was condensed with 4-tert-butylbenzenesulfonyl chloride to yield 4-tert-butyl-N-{1-[3-(4-dimethylamino-phenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-N-methylbenzenesulfonamide; MS (ESI) 519 (MH+).

reactant | 3-(4-dimethylamino-phenyl)-2-(1-methylaminoethyl)-3H-quinazolin-4-one | CN(C1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C(C)NC)C | C19H22N4O
reactant | 4-tert-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-butyl-N-{1-[3-(4-dimethylamino-phenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-N-methylbenzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C)C(C)C1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)N(C)C)=O | C29H34N4O3S
